US07432378B2
2-{2-Chloro-4-[3-(1-methyl-piperidin-4-yl)-propoxy]-phenyl}-4,6-dimethyl-1H-benzoimidazole
This compound was prepared by the method described in Example 2, using 2-chloro-4-[3-(1-methyl-piperidin-4-yl)-propoxy]-benzaldehyde (106 mg, 0.36 mmol, 1.0 equiv), 3,5-dimethyl-benzene-1,2-diamine (49 mg, 0.36 mmol, 1.0 equiv), and Na2S2O5 (88 mg, 0.47 mmol, 1.3 equiv) in Step C. Purification by Method 2 afforded 128 mg (87%) of the title compound. MS (electrospray): mass calculated for C24H30ClN3O, 411.21; m/z found, 412.4 [M+H]+. 1H NMR (400 MHz, CD3OD): 7.68 (d, J=8.5 Hz, 1H), 7.21 (br s, 1H), 7.12 (d, J=2.4 Hz, 1H), 7.01 (dd, J=8.7, 2.5 Hz, 1H), 6.90 (s, 1H), 4.05 (t, J=6.3 Hz, 2H), 2.92-2.88 (m, 2H), 2.54 (s, 3H), 2.43 (s, 3H), 2.29 (s, 3H), 2.09-2.03 (m, 2H), 1.85-1.76 (m, 4H), 1.47-1.11 (m, 5H).

reactant | 2-chloro-4-[3-(1-methyl-piperidin-4-yl)-propoxy]-benzaldehyde | 0.36 mmol, 106 mg, 1.0 equiv | ClC1=C(C=O)C=CC(=C1)OCCCC1CCN(CC1)C | C16H22ClNO2
reactant | 3,5-dimethyl-benzene-1,2-diamine | 0.36 mmol, 49 mg, 1.0 equiv | CC1=C(C(=CC(=C1)C)N)N | C8H12N2
product | 2-{2-Chloro-4-[3-(1-methyl-piperidin-4-yl)-propoxy]-phenyl}-4,6-dimethyl-1H-benzoimidazole | 128 mg, 87% | ClC1=C(C=CC(=C1)OCCCC1CCN(CC1)C)C1=NC2=C(N1)C=C(C=C2C)C | C24H30ClN3O
